US07528135B2
1-Isobutyl-4-(5-nitro-pyridin-2-yl)-piperazine
A mixture of 7 g (34 mmol) 1-(5-nitro-pyridin-2-yl)-piperazine (commercially available), 3.15 g (44 mmol) isobutytraldehyde, 10.7 g (50 mmol) sodium trisacetoxyborohydride in 140 ml THF and 3 ml acetic acid was stirred at room temperature for 16 h. After addition of 50 ml water, THF was removed under vacuum. The residue was taken up in 300 ml water and 400 ml ethyl acetate and made alkaline by addition of 2M aq. Na2CO3 solution. The mixture was afterwards extracted two times with 300 ml ethyl acetate each. The combined organic phases were washed two times with 200 ml water each, dried with MgSO4 and evaporated to dryness. The residue was used without further purification in the synthesis of intermediate 9. (m/e): 265.0 (MH+; 100%).

reactant | 1-(5-nitro-pyridin-2-yl)-piperazine | 34 mmol, 7 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCNCC1 | C9H12N4O2
reactant | sodium trisacetoxyborohydride | 50 mmol, 10.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 50 ml | O | H2O
reactant | THF | 140 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-Isobutyl-4-(5-nitro-pyridin-2-yl)-piperazine | C(C(C)C)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C13H20N4O2
